US08912200B2
N-(3-Ethynylphenyl)-1-methylpiperidin-4-amine
3-Ethynyl-phenylamine (0.1 mL, 1 mmol) and 1-methyl-piperidin-4-one (0.15 mL, 1.2 mmol) in 1,4-dioxane (4 mL) was treated first with TFA (0.2 mL, 2.6 mmol) and then with sodium triacetoxyborohydride (318 mg, 1.5 mmol). After stirring for 2 h, 10% NH4OH was added to the reaction mixture (15 mL). Extraction with DCM (3×25 mL), drying over sodium sulfate, evaporation, purification by flash chromatography over silica gel (DCM/7N NH3 in MeOH 9/1) afforded the title compound (200 mg, 93%).

reactant | 3-Ethynyl-phenylamine | 1 mmol, 0.1 mL | C(#C)C=1C=C(C=CC1)N | C8H7N
reactant | 1-methyl-piperidin-4-one | 1.2 mmol, 0.15 mL | CN1CCC(CC1)=O | C6H11NO
reactant | TFA | 2.6 mmol, 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium triacetoxyborohydride | 1.5 mmol, 318 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-(3-Ethynylphenyl)-1-methylpiperidin-4-amine | 200 mg, 93% | C(#C)C=1C=C(C=CC1)NC1CCN(CC1)C | C14H18N2
